US06911463B2
A slurry of 4-fluoro-3-(dimethylaminomethyl)-1H-indole (4.3 g, 22.4 mmol) in 14.1 ml of 2-nitropropane is treated with solid NaOH (941 mg, 23.5 mmol), and the resulting mixture is heated at reflux overnight. After cooling to ambient temperature, the reaction mixture is acidified with 10% aqueous acetic acid (25 ml) and stirring is continued for 30 minutes. The reaction mixture is diluted with ethyl acetate (50 ml) and brine (50 ml). The layers are separated, and the organic layer is washed with brine (50 ml), dried over Na2SO4 and concentrated in vacuo to give 3.71 g of 4-fluoro-3-(2-methyl-2-nitropropyl)-1H-indole (76%).

reactant | 4-fluoro-3-(dimethylaminomethyl)-1H-indole | 22.4 mmol, 4.3 g | FC1=C2C(=CNC2=CC=C1)CN(C)C | C11H13FN2
reactant | NaOH | 23.5 mmol, 941 mg | [OH-].[Na+]
reactant | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
reactant | 2-nitropropane | 14.1 ml | [N+](=O)([O-])C(C)C | C3H7NO2
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | brine | 50 ml | [Cl-].[Na+].O
product | 4-fluoro-3-(2-methyl-2-nitropropyl)-1H-indole | 3.71 g, 76% | FC1=C2C(=CNC2=CC=C1)CC(C)([N+](=O)[O-])C | C12H13FN2O2
